US06906203B1
2-Amino-3-cyano-7-dimethylamino-4-(3,4-methylenedioxyphenyl)-4H-chromene
To a mixture of 3-dimethylaminophenol (489 mg, 3.56 mmol), piperonal (535 mg, 3.56 mmol), and malononitrile (233 mg, 3.53 mmol) in ethanol (20 ml) was added piperidine (0.70 ml, 7.1 mmol). The mixture was stirred at room temperature for 2 h and the resulting solid was collected by filtration, washed with methanol and dried in vacuo to yield the title compound as a yellow solid (940 mg, 2.80 mmol, 79%). 1H NMR (DMSO-d6): 6.83-6.77 (m, 4H), 6.66-6.64 (m, 2H), 6.47-6.44 (m, 1H), 6.21 (s, 1H), 5.96 (s, 1H), 5.95 (s, 1H), 4.53 (s, 1H), 2.85 (s, 6H).

reactant | 3-dimethylaminophenol | 3.56 mmol, 489 mg | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | piperonal | 3.56 mmol, 535 mg | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | malononitrile | 3.53 mmol, 233 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 7.1 mmol, 0.70 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Amino-3-cyano-7-dimethylamino-4-(3,4-methylenedioxyphenyl)-4H-chromene | 2.80 mmol, 940 mg, 79% | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC2=C(C=C1)OCO2)N(C)C | C19H17N3O3
